Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Pravastatin
 
Attending: ___
 
Chief Complaint:
Disc herniation
 
Major Surgical or Invasive Procedure:
L2/L3 laminectomy and right microdiscectomy

 
History of Present Illness:
Mrs. ___ is a ___ y/o female who presented with severe central 
stenosis as a result of large disk herniation, right L2-3. She 
presented the day of surgery for microdiscectomy. 
 
Past Medical History:
PMH: NIDDM, obesity, dyslipidemia, HTN, OA, asthma, OSA on CPAP 
at night, renal insufficiency, depression, seasonal allergies

PSH: Left knee arthroscopy ___
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
EXAM OF DISCHARGE: 
A&OX3, MAE ___, incision cd&i with staples, sensation intact, no 
numbness or tingling. 
 
Brief Hospital Course:
Mrs. ___ presented on ___ for an L2-3 microdiscectomy. Her 
intraoperative course was uneventful, please refer to the 
operative note for further details. She was extubated in the OR 
and transferred to the PACU for recovery. She remained stable 
and was later transferred to the floor.
On ___, the patient expressed concerns with mobilization and 
living on the third floor with no elevator. A physical therapy 
consult was placed, she was evaluated and the patient was found 
safe for discharge home. She was discharged home in stable 
condition. All discharge instructions and follow up were given 
prior to discharge. 
 
Medications on Admission:
Duloxetine 20 mg daily
Gabapentin 500 mg PO BID  
GlipiZIDE 10 mg PO BID  
Hydrochlorothiazide 12.5 mg PO DAILY  
Lisinopril 10 mg PO DAILY  
MetFORMIN (Glucophage) 1000 mg PO BID with meal  
Venlafaxine XR 150 mg PO DAILY  

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain 
Please do not exceed more than 4 grams in 24 hrs.  
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Diazepam 2 mg PO Q8H:PRN muscle spasm 
This medication may cause sedation, please do not drive while 
taking this medication.  
RX *diazepam 2 mg 1 tab by mouth Q 8hrs Disp #*30 Tablet 
Refills:*0
4. Docusate Sodium 100 mg PO BID 
5. Duloxetine 20 mg PO DAILY 
6. Gabapentin 500 mg PO BID 
7. GlipiZIDE 10 mg PO BID 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. Lisinopril 10 mg PO DAILY 
10. MetFORMIN (Glucophage) 1000 mg PO BID with meal 
11. Venlafaxine XR 150 mg PO DAILY 
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Please do not drive or operate mechanical machinery while taking 
narcotics.  
RX *oxycodone 5 mg ___ tablet(s) by mouth Q 4hrs Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L2/L3 radiculopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery 

     Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.

     Do not apply any lotions or creams to the site. 

     Please avoid swimming for two weeks after staple removal.

     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

     You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

     No driving while taking any narcotic or sedating 
medication. 

     No contact sports until cleared by your neurosurgeon. 

Medications

     Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) for 7 days from your date of 
surgery. 

     You may take Ibuprofen/ Motrin for pain.

     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

     It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:

     Severe pain, swelling, redness or drainage from the 
incision site. 

     Fever greater than 101.5 degrees Fahrenheit

     New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___